2168-02-17 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   More awake over course of night, actively treated sugars with hydration
   and insulin drip.  Hypernatremia worsened, administered D5W at 150
   cc/hr, Repeat lytes in AM
 LUMBAR PUNCTURE - At [**2168-2-16**] 11:00 PM
 EKG - At [**2168-2-17**] 01:49 AM
 EKG - At [**2168-2-17**] 01:50 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2168-2-17**] 01:30 AM
   Acyclovir - [**2168-2-17**] 02:18 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-2-17**] 03:02 AM
   Dilantin - [**2168-2-17**] 03:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-17**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 86 (86 - 92) bpm
   BP: 120/51(66) {116/51(66) - 149/82(98)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.7 kg (admission): 127.7 kg
             Total In:
                                                                  6,000 mL
                                                                  1,399 mL
   PO:
             TF:
   IVF:
                                                                  4,000 mL
                                                                  1,399 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    940 mL
   Urine:
                                                                    620 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,380 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.34/56/166/28/3
   Physical Examination
   General obese man lying in bed, responds to voice and follows commands,
   mumbles
   HEENT PEARL, conjunctiva slightly injected b/l
   Neck No nuchal rigidity
   Pulm lungs clear bilaterally
   CV tachycardic regular soft systolic murmur throughout precordium
   Abd obese nontender +bowel sounds nontender
   Extrem warm 2+ peripheral edema with serosanguinous drainage from
   several small linear breaks in skin, appears diffusely erythematous
   Neuro opens eyes to voice and sternal rub but does not follow commands,
   no gross focal deficits
   Labs / Radiology
   197 K/uL
   13.2 g/dL
   406 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   19 mg/dL
   115 mEq/L
   151 mEq/L
   40.1 %
   11.2 K/uL
        [image002.jpg]
                             [**2168-2-16**]  10:34 PM
                             [**2168-2-16**]  10:47 PM
                             [**2168-2-17**]  12:08 AM
                             [**2168-2-17**]  02:22 AM
   WBC
   11.2
   Hct
   40.1
   Plt
   197
   Cr
   0.7
   0.6
   TropT
   0.15
   TCO2
   32
   Glucose
   471
   519
   406
   Other labs: CK / CKMB / Troponin-T:82//0.15, Differential-Neuts:82.4 %,
   Lymph:12.4 %, Mono:4.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, Mg++:2.1 mg/dL
   Assessment and Plan
   This is a 62M with inclusion body myositis on prednisone who presents
   with altered mental status and was found to have nonconvulsive status
   epilepticus, now resolved as well as pancreatitis and hyperglycemia.
   .
   1. Altered mental status, s/p seizure
   Most likely multifactorial; patient post-ictal, dehydrated, with
   hyperglycemia and acute renal failure. Meningitis seems much less
   likely - no significant fevers, but may be masked with steroids.
   Reassuringly tube4 wbc is <5 (note tap was traumatic). Note that
   antibiotics given in ED may lead to falsely negative CSF cultures. No
   evidence of new CVA on CT head. Multiple possible precipitants for this
   patient's seizure, including acidosis, hyperglycemia, electrolyte
   imbalance.
   - Ok to continue ceftriaxone 2g q12, vancomycin 1g q12, and acyclovir.
   Given age would also add ampicillin 2g q4. Continue abx until CSF
   cultures negative x48 hrs. Continue acyclovir pending HSV PCR.
   - Check urine culture in addition to blood cultures
   - LP when stabilized include HSV PCR
   - MRI head per neuro scheduled for today
   - Continuous EEG
   - Continue home Keppra
   - continue dilantin today, check Keppra level per neuro recs
   - Neuro recommendations appreciated
   - Cycle cardiac enzymes, ASA daily (no bleed on CT scan), monitor on
   telemetry-of note patient did have elevated troponins in previous
   notes.  This may represent demand ischemia.
   .
   2. Pancreatitis
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] score is 3 (Age, Glucose, LDH) predicting 15-20%
   mortality -- however interpretation more complicated as steroids likely
   contributing to hyperglycemia. Prelim CT shows no evidence of abscess
   or significant pancreatic necrosis however. Precipitant uncertain-- No
   history of recent EtoH intake. Calcium within normal limits, no
   evidence of gallstone disease. Thiazides have been associated with
   pancreatitis but seems less compelling. His labs show evidence of
   significant volume depletion with hemoconcentration and acute renal
   failure.  Serum neg for EtOH and ggt negative making EtOH unlikely.
   - volume resuscitation with NS
   - NGT, NPO
   - Triglycerides pending
   - follow up CT read
   -Get RUQ US to evaluate for non-radiopaque stones
   .
   3. Hyperglycemia
   Patient not known to be a diabetic - though given his habitus may well
   have been glucose intolerant and tipped over by recent prednisone.
   Acute pancreatitis could be contributory as well. A1c 9.9, so likely
   undiagnosed diabetes
   - IVF to maintain good urine output
   - q1hr fingersticks, insulin drip as persistently hyperglycemic post
   IVF
   - [**Last Name (un) **] consult
   - will need standing insulin recs when able to come off drip
   .
   4. Elevated lactate
   Most likely secondary to volume depletion, but also need to rule out
   infection. [**Month (only) 8**] also relate to recent seizure.
   - Repeat lactate normal
   - Culturing and abx as above
   - IVF as above
   .
   5. Acidosis
   Patient with gap acidosis, most likely secondary to elevated lactate,
   also may have contribution from renal failure.
   - ABG as above
   .
   6. Acute renal failure
   Very likely secondary to pre-renal state from dehydration; his marked
   hyperglycemia would lead to osmotic diuresis. No history of hypotension
   to suggest ATN.
   - Check urine electrolytes-FENA 2.6, after aggressive rehydration, but
   clinically prerenal
   - Follow Cr-currently at baseline
   - Hold home HCTZ in setting of rehydration
   .
   7. Hypernatremia
   Sodium at admission falsely in normal range 2/2 marked hyperglycemia.
   Free water deficit ~8L at admission.
   - needed initial volume resuscitation with saline as intravascularly
   deplete
   - follow Na q4 hrs
   - continue D5W for another 4 hours, if no change in sodium, will begin
   free water boluses via NG
   .
   8. Hypertension
   Holding home HCTZ in setting of dehydration. Will resume amlodipine if
   hypertensive.
   .
   9. Inclusion body myositis
   Following neuro recs
   - Discuss weaning steroids or alternative to steroids with neurology
   - Stress dose steroids if develops hypotension
   .
   FEN NPO, NGT, D5W at 150 cc/hour
   Access PIV x2-eval for access this afternooon
   PPX PPI, pneumoboots, seizure and droplet precautions, SQ Heparin
   Dispo ICU
   Code Full
   [**Name (NI) **] wife [**Telephone/Fax (1) 4155**], nephew [**Name (NI) 977**] [**Telephone/Fax (1) 4156**] is family
   spokesperson
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-2-16**] 09:50 PM
   20 Gauge - [**2168-2-16**] 09:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-02-18 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro following: Prednisone 20mg PO BID, dropping 5mg total/week
   - Troponin unchanged
   - Na resolving to 147 @ 2pm
   - PICC placed
   - [**Last Name (un) 72**] Consult: continue Insulin gtt, will follow
 EEG - At [**2168-2-17**] 10:01 AM
   continuous
 PICC LINE - START [**2168-2-17**] 11:37 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-2-17**] 08:30 PM
   Ceftriaxone - [**2168-2-17**] 10:00 PM
   Acyclovir - [**2168-2-18**] 02:15 AM
   Ampicillin - [**2168-2-18**] 04:15 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-2-17**] 09:15 AM
   Pantoprazole (Protonix) - [**2168-2-18**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-2-18**] 02:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-18**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 85 (77 - 92) bpm
   BP: 140/52(71) {118/45(62) - 154/83(97)} mmHg
   RR: 27 (18 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.7 kg (admission): 127.7 kg
             Total In:
                                                                  5,991 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                  5,931 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    510 mL
   Urine:
                                                                  2,170 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,821 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General obese man lying in bed, responds to voice and follows commands,
   oriented to person, place and time.  Does not want to open eyes.
   HEENT PEARL, conjunctiva slightly injected b/l
   Neck No nuchal rigidity
   Pulm lungs clear bilaterally
   CV tachycardic regular soft systolic murmur throughout precordium
   Abd obese nontender +bowel sounds nontender
   Extrem warm 2+ peripheral edema with serosanguinous drainage from
   several small linear breaks in skin, appears diffusely erythematous
   Neuro opens eyes to voice and sternal rub but does not follow commands,
   no gross focal deficits
   Labs / Radiology
   173 K/uL
   12.1 g/dL
   128 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   144 mEq/L
   36.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-2-16**]  10:34 PM
                             [**2168-2-16**]  10:47 PM
                             [**2168-2-17**]  12:08 AM
                             [**2168-2-17**]  02:22 AM
                             [**2168-2-17**]  05:52 AM
                             [**2168-2-17**]  02:02 PM
                             [**2168-2-18**]  03:30 AM
   WBC
   11.2
   8.2
   8.8
   Hct
   40.1
   37.5
   36.5
   Plt
   197
   185
   173
   Cr
   0.7
   0.6
   0.7
   0.6
   0.5
   TropT
   0.15
   0.26
   0.26
   TCO2
   32
   Glucose
   471
   519
   406
   264
   97
   128
   Other labs: PT / PTT / INR:12.5/26.7/1.1, CK / CKMB /
   Troponin-T:101/9/0.26, Differential-Neuts:79.8 %, Lymph:14.1 %,
   Mono:4.4 %, Eos:1.5 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   This is a 62M with inclusion body myositis on prednisone who presents
   with altered mental status and was found to have nonconvulsive status
   epilepticus, now resolved as well as pancreatitis and hyperglycemia.
   .
   1. Altered mental status, s/p seizure
   Most likely multifactorial; patient post-ictal, dehydrated, with
   hyperglycemia and acute renal failure. Meningitis seems much less
   likely - no significant fevers, but may be masked with steroids.
   Reassuringly tube4 wbc is <5 (note tap was traumatic). Note that
   antibiotics given in ED may lead to falsely negative CSF cultures. No
   evidence of new CVA on CT head. Multiple possible precipitants for this
   patient's seizure, including acidosis, hyperglycemia, electrolyte
   imbalance.
   - Ok to continue ceftriaxone 2g q12, vancomycin 1g q12, and acyclovir.
   Given age would also add ampicillin 2g q4. Continue abx until CSF
   cultures negative x48 hrs. Continue acyclovir pending HSV PCR.
   - Check urine culture in addition to blood cultures
   - LP when stabilized include HSV PCR
   - MRI head per neuro scheduled for today
   - Continuous EEG
   - Continue home Keppra
   - continue dilantin today, check Keppra level per neuro recs
   - Neuro recommendations appreciated
   - Cycle cardiac enzymes, ASA daily (no bleed on CT scan), monitor on
   telemetry-of note patient did have elevated troponins in previous
   notes.  This may represent demand ischemia.
   .
   2. Pancreatitis
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] score is 3 (Age, Glucose, LDH) predicting 15-20%
   mortality -- however interpretation more complicated as steroids likely
   contributing to hyperglycemia. Prelim CT shows no evidence of abscess
   or significant pancreatic necrosis however. Precipitant uncertain-- No
   history of recent EtoH intake. Calcium within normal limits, no
   evidence of gallstone disease. Thiazides have been associated with
   pancreatitis but seems less compelling. His labs show evidence of
   significant volume depletion with hemoconcentration and acute renal
   failure.  Serum neg for EtOH and ggt negative making EtOH unlikely.
   - volume resuscitation with NS
   - NGT, NPO
   - Triglycerides pending
   - follow up CT read
   -Get RUQ US to evaluate for non-radiopaque stones
   .
   3. Hyperglycemia
   Patient not known to be a diabetic - though given his habitus may well
   have been glucose intolerant and tipped over by recent prednisone.
   Acute pancreatitis could be contributory as well. A1c 9.9, so likely
   undiagnosed diabetes
   - IVF to maintain good urine output
   - q1hr fingersticks, insulin drip as persistently hyperglycemic post
   IVF
   - [**Last Name (un) **] consult
   - will need standing insulin recs when able to come off drip
   .
   4. Elevated lactate
   Most likely secondary to volume depletion, but also need to rule out
   infection. [**Month (only) 8**] also relate to recent seizure.
   - Repeat lactate normal
   - Culturing and abx as above
   - IVF as above
   .
   5. Acidosis
   Patient with gap acidosis, most likely secondary to elevated lactate,
   also may have contribution from renal failure.
   - ABG as above
   .
   6. Acute renal failure
   Very likely secondary to pre-renal state from dehydration; his marked
   hyperglycemia would lead to osmotic diuresis. No history of hypotension
   to suggest ATN.
   - Check urine electrolytes-FENA 2.6, after aggressive rehydration, but
   clinically prerenal
   - Follow Cr-currently at baseline
   - Hold home HCTZ in setting of rehydration
   .
   7. Hypernatremia
   Sodium at admission falsely in normal range 2/2 marked hyperglycemia.
   Free water deficit ~8L at admission.
   - needed initial volume resuscitation with saline as intravascularly
   deplete
   - follow Na q4 hrs
   - continue D5W for another 4 hours, if no change in sodium, will begin
   free water boluses via NG
   .
   8. Hypertension
   Holding home HCTZ in setting of dehydration. Will resume amlodipine if
   hypertensive.
   .
   9. Inclusion body myositis
   Following neuro recs
   - Discuss weaning steroids or alternative to steroids with neurology
   - Stress dose steroids if develops hypotension
   .
   FEN NPO, NGT, D5W at 150 cc/hour
   Access PIV x2-eval for access this afternooon
   PPX PPI, pneumoboots, seizure and droplet precautions, SQ Heparin
   Dispo ICU
   Code Full
   [**Name (NI) **] wife [**Telephone/Fax (1) 4155**], nephew [**Name (NI) 977**] [**Telephone/Fax (1) 4156**] is family
   spokesperson
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-2-16**] 09:50 PM
   PICC Line - [**2168-2-17**] 11:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-02-18 12:00:00 Physician Attending Progress Note
Chief Complaint: seizure with status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with inclusion body myositis, recent SAH, admitted with
   seizures, HONK.
   24 Hour Events:
 EEG - At [**2168-2-17**] 10:01 AM
   continuous
 PICC LINE - START [**2168-2-17**] 11:37 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-2-17**] 10:00 PM
   Acyclovir - [**2168-2-18**] 02:15 AM
   Ampicillin - [**2168-2-18**] 08:13 AM
   Vancomycin - [**2168-2-18**] 08:45 AM
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2168-2-18**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2168-2-18**] 10:01 AM
   Other medications:
   protonix
   insulin
   prednisone
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-18**] 12:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 74 (74 - 92) bpm
   BP: 112/65(76) {112/52(71) - 154/83(97)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.7 kg (admission): 127.7 kg
             Total In:
                                                                  5,991 mL
                                                                  1,451 mL
   PO:
             TF:
   IVF:
                                                                  5,931 mL
                                                                  1,451 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                  1,290 mL
   Urine:
                                                                  2,170 mL
                                                                  1,290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,821 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed, does not open eyes
   Labs / Radiology
   12.1 g/dL
   173 K/uL
   128 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   144 mEq/L
   36.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2168-2-16**]  10:34 PM
                             [**2168-2-16**]  10:47 PM
                             [**2168-2-17**]  12:08 AM
                             [**2168-2-17**]  02:22 AM
                             [**2168-2-17**]  05:52 AM
                             [**2168-2-17**]  02:02 PM
                             [**2168-2-18**]  03:30 AM
   WBC
   11.2
   8.2
   8.8
   Hct
   40.1
   37.5
   36.5
   Plt
   197
   185
   173
   Cr
   0.7
   0.6
   0.7
   0.6
   0.5
   TropT
   0.15
   0.26
   0.26
   TCO2
   32
   Glucose
   471
   519
   406
   264
   97
   128
   Other labs: PT / PTT / INR:12.5/26.7/1.1, CK / CKMB /
   Troponin-T:101/9/0.26, Differential-Neuts:79.8 %, Lymph:14.1 %,
   Mono:4.4 %, Eos:1.5 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE:  unclear cause, recheck enzymes to make sure
   that they are trending down.
 ALTERED MENTAL STATUS (NOT DELIRIUM)/seizures:  On keppra, MS
   improved.
 HYPERGLYCEMIA/HONK: on insulin drip, can start s/q insulin one
   starting on PO
   inclusion body myositis:  on prednisone taper
   SAH: stable/improved MS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-2-16**] 09:50 PM
   PICC Line - [**2168-2-17**] 11:37 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-02-19 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Patient pulled his own NG, left out-diet changed to sips with meds,
   advance as tolerated
   -S and S consult ordered
   -liquid stool-c diff sent
   -Discontinued droplet precautions as no growth, discontinued
   antibiotics, but did not discontinue acyclovir as PCR still pending.
   -repleted phos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-2-17**] 10:00 PM
   Vancomycin - [**2168-2-18**] 08:45 AM
   Ampicillin - [**2168-2-18**] 05:00 PM
   Acyclovir - [**2168-2-19**] 02:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-2-19**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-19**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 73 (72 - 90) bpm
   BP: 131/78(90) {112/60(74) - 150/95(102)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.7 kg (admission): 127.7 kg
             Total In:
                                                                  3,727 mL
                                                                    889 mL
   PO:
                                                                    300 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  3,427 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    625 mL
   Urine:
                                                                  2,400 mL
                                                                    475 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  1,327 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General obese man lying in bed, responds to voice and follows commands,
   oriented to person, place and time.  Does not want to open eyes.
   HEENT PEARL, conjunctiva slightly injected b/l
   Neck No nuchal rigidity
   Pulm lungs clear bilaterally
   CV tachycardic regular soft systolic murmur throughout precordium
   Abd obese nontender +bowel sounds nontender
   Extrem warm 2+ peripheral edema with serosanguinous drainage from
   several small linear breaks in skin, appears diffusely erythematous
   Neuro opens eyes to voice and sternal rub but does not follow commands,
   no gross focal deficits
   Labs / Radiology
   154 K/uL
   12.0 g/dL
   165 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   35.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2168-2-16**]  10:34 PM
                             [**2168-2-16**]  10:47 PM
                             [**2168-2-17**]  12:08 AM
                             [**2168-2-17**]  02:22 AM
                             [**2168-2-17**]  05:52 AM
                             [**2168-2-17**]  02:02 PM
                             [**2168-2-18**]  03:30 AM
                             [**2168-2-18**]  04:47 PM
                             [**2168-2-19**]  02:55 AM
   WBC
   11.2
   8.2
   8.8
   6.8
   Hct
   40.1
   37.5
   36.5
   35.3
   Plt
   197
   185
   173
   154
   Cr
   0.7
   0.6
   0.7
   0.6
   0.5
   0.5
   0.5
   TropT
   0.15
   0.26
   0.26
   TCO2
   32
   Glucose
   471
   519
   406
   264
   97
   128
   64
   165
   Other labs: PT / PTT / INR:12.1/28.6/1.0, CK / CKMB /
   Troponin-T:101/9/0.26, Amylase / Lipase:515/25, Differential-Neuts:79.8
   %, Lymph:14.1 %, Mono:4.4 %, Eos:1.5 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 62M with inclusion body myositis on prednisone who presents
   with altered mental status and was found to have nonconvulsive status
   epilepticus, now resolved as well as pancreatitis and hyperglycemia.
   .
   1. Altered mental status, s/p seizure
   Most likely multifactorial; patient post-ictal, dehydrated, with
   hyperglycemia and acute renal failure. Meningitis seems much less
   likely - no significant fevers, but may be masked with steroids.
   Reassuringly tube4 wbc is <5 (note tap was traumatic). Note that
   antibiotics given in ED may lead to falsely negative CSF cultures. No
   evidence of new CVA on CT head. Multiple possible precipitants for this
   patient's seizure, including acidosis, hyperglycemia, electrolyte
   imbalance.
   - Ok to continue ceftriaxone 2g q12, vancomycin 1g q12, and acyclovir.
   Given age would also add ampicillin 2g q4. Continue abx until CSF
   cultures negative x48 hrs. Continue acyclovir pending HSV PCR.
   - Follow up Urine Cx-pending
   - Follow up LP-pending
   - MRI head per neuro scheduled for today
   - Continuous EEG
   - Keppra increased yesterday, Dilantin D/c
   -
   - Neuro recommendations appreciated
   - CE-no further bump.
   .
   2. Pancreatitis
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] score is 3 (Age, Glucose, LDH) predicting 15-20%
   mortality -- however interpretation more complicated as steroids likely
   contributing to hyperglycemia. Prelim CT shows no evidence of abscess
   or significant pancreatic necrosis however. Precipitant uncertain-- No
   history of recent EtoH intake. Calcium within normal limits, no
   evidence of gallstone disease. Thiazides have been associated with
   pancreatitis but seems less compelling. His labs show evidence of
   significant volume depletion with hemoconcentration and acute renal
   failure.  Serum neg for EtOH and ggt negative making EtOH unlikely.
   - volume resuscitation with NS
   - NGT, NPO-until patient has hunger and tolerating PO.  Continue
   insulin drip until then.
   - Triglycerides pending
   - follow up CT read
   - Defer RUQ US for now
   .
   3. Hyperglycemia
   Patient not known to be a diabetic - though given his habitus may well
   have been glucose intolerant and tipped over by recent prednisone.
   Acute pancreatitis could be contributory as well. A1c 9.9, so likely
   undiagnosed diabetes
   - IVF to maintain good urine output
   - q1hr fingersticks, insulin drip as persistently hyperglycemic post
   IVF
   - [**Last Name (un) **] consult-likely insulin resistant in setting of acute
   inflammation and type of diabetes so will hold off on long acting
   insulin until more stable.
   - will need standing insulin recs when able to come off drip
   .
   4. Elevated lactate-Resolved
   Most likely secondary to volume depletion, but also need to rule out
   infection. [**Month (only) 8**] also relate to recent seizure.
   - Repeat lactate normal
   - Culturing and abx as above
   - IVF as above
   .
   5. Acidosis-Resolved
   Patient with gap acidosis, most likely secondary to elevated lactate,
   also may have contribution from renal failure.
   - ABG as above
   .
   6. Acute renal failure-Resolved
   Very likely secondary to pre-renal state from dehydration; his marked
   hyperglycemia would lead to osmotic diuresis. No history of hypotension
   to suggest ATN.
   - Check urine electrolytes-FENA 2.6, after aggressive rehydration, but
   clinically prerenal
   - Follow Cr-currently at baseline
   - Hold home HCTZ in setting of rehydration
   .
   7. Hypernatremia-Resolved
   Sodium at admission falsely in normal range 2/2 marked hyperglycemia.
   Free water deficit ~8L at admission.
   - needed initial volume resuscitation with saline as intravascularly
   deplete
   - follow PM lytes
   - start D5
 NS at 75 cc/hour while on drip and NPO
   .
   8. Hypertension
   Holding home HCTZ in setting of dehydration. Will resume amlodipine if
   hypertensive.
   .
   9. Inclusion body myositis
   Following neuro recs
   - Wean prednisone from 20 [**Hospital1 **] by 5 mg every week
   - Stress dose steroids if develops hypotension
   .
   FEN NPO, NGT, D5
 NS at 75 cc/hour
   Access PIV x2, PICC
   PPX PPI, pneumoboots, seizure and droplet precautions, SQ Heparin
   Dispo ICU
   Code Full
   [**Name (NI) **] wife [**Telephone/Fax (1) 4155**], nephew [**Name (NI) 977**] [**Telephone/Fax (1) 4156**] is family
   spokesperson
 DIARRHEA
 PANCREATITIS, ACUTE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-2-16**] 09:50 PM
   PICC Line - [**2168-2-17**] 11:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-02-19 10:31:00 Physician Attending Progress Note
Chief Complaint: delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with admitted with seizures, delirium, HONK.  doing much
   better
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-2-17**] 10:00 PM
   Vancomycin - [**2168-2-18**] 08:45 AM
   Ampicillin - [**2168-2-18**] 05:00 PM
   Acyclovir - [**2168-2-19**] 02:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-2-19**] 02:10 AM
   Other medications:
   protonix
   prednisone
   asa
   keppra
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No headache, no fever, no SOB, no abdominal pain, no nausea
   no dysuria, no weakness, no confusion, no hallucinations,
   no seizure activiity
   Flowsheet Data as of  [**2168-2-19**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 72 (66 - 90) bpm
   BP: 137/77(90) {112/65(76) - 150/95(102)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.7 kg (admission): 127.7 kg
             Total In:
                                                                  3,727 mL
                                                                  1,353 mL
   PO:
                                                                    300 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  3,427 mL
                                                                  1,073 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    625 mL
   Urine:
                                                                  2,400 mL
                                                                    475 mL
   NG:
   Stool:
   150 mL
   Drains:
   Balance:
                                                                  1,327 mL
                                                                    728 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   154 K/uL
   165 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   35.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2168-2-16**]  10:34 PM
                             [**2168-2-16**]  10:47 PM
                             [**2168-2-17**]  12:08 AM
                             [**2168-2-17**]  02:22 AM
                             [**2168-2-17**]  05:52 AM
                             [**2168-2-17**]  02:02 PM
                             [**2168-2-18**]  03:30 AM
                             [**2168-2-18**]  04:47 PM
                             [**2168-2-19**]  02:55 AM
   WBC
   11.2
   8.2
   8.8
   6.8
   Hct
   40.1
   37.5
   36.5
   35.3
   Plt
   197
   185
   173
   154
   Cr
   0.7
   0.6
   0.7
   0.6
   0.5
   0.5
   0.5
   TropT
   0.15
   0.26
   0.26
   TCO2
   32
   Glucose
   471
   519
   406
   264
   97
   128
   64
   165
   Other labs: PT / PTT / INR:12.1/28.6/1.0, CK / CKMB /
   Troponin-T:101/9/0.26, Amylase / Lipase:515/25, Differential-Neuts:79.8
   %, Lymph:14.1 %, Mono:4.4 %, Eos:1.5 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PANCREATITIS, ACUTE:  no abdominal pain or nausea and has started
   taking PO diet.
 ALTERED MENTAL STATUS/Delirium:  Much better.  no evidence of
   meningitis - can d/c acyclovir
 HYPERGLYCEMIA/diabetes:  increase lantis.
   Status epilepticus:  no further seizure activity.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2168-2-16**] 09:50 PM
   PICC Line - [**2168-2-17**] 11:37 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :transfer to floor
   Total time spent: 35 minutes